US08404836B2
25 g (186 mmol) of methyl dimethoxyacetate is added to 27 ml (215 mmol) of acetyl chloride at room temperature. 0.1 g (0.2% molar) of iodine is added and then the reaction mixture is stirred at 55° C. for 16 hours. The excess of acetyl chloride is evaporated under vacuum, then the residue is dissolved in 100 ml of dichloromethane. 49 g (204 mmol) of triphenylphosphine is added and then the reaction mixture is stirred at 37° C. for 3 hours. The solvents are evaporated and the residue is crystallized in diisopropyl ether. 70 g (88%) of (methoxy-methoxycarbonyl-methyl)-triphenyl-phosphonium chloride is obtained.

reactant | methyl dimethoxyacetate | 186 mmol, 25 g | COC(C(=O)OC)OC | C5H10O4
reactant | acetyl chloride | 215 mmol, 27 ml | C(C)(=O)Cl | C2H3ClO
reactant | triphenylphosphine | 204 mmol, 49 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
catalyst | iodine | 0.1 g | II | I2
product | (methoxy-methoxycarbonyl-methyl)-triphenyl-phosphonium chloride | 70 g, 88% | [Cl-].COC(C(=O)OC)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C22H22O3P.ClH/c1-24-21(23)22(25-2)26(18-12-6-3-7-13-18,19-14-8-4-9-15-19)20-16-10-5-11-17-20;/h3-17,22H,1-2H3;1H/q+1;/p-1
